US09029361B2
Part G. Preparation of tert-butyl (8S,9aR)-8-[(5-cyclopropylpyrazin-2-yl)oxy]-5-oxohexahydro-1H-pyrrolo[1,2-a][1,4]diazepine-2(3H)-carboxylate
tert-Butyl (8S,9aR)-8-hydroxy-5-oxohexahydro-1H-pyrrolo[1,2-a][1,4]diazepine-2(3H)-carboxylate (55 mg, 0.203 mmol, Part F) was dissolved in tetrahydrofuran (1.2 mL). Potassium tert-butoxide (0.400 mL, 0.400 mmol, 1.0 M in tetrahydrofuran, 2.0 equivalents) was added at room temperature, and the resulting solution was stirred for five minutes. Then 2-bromo-5-cyclopropylpyrazine (81 mg, 0.407 mmol, 2.0 equivalents) was added as a solution in tetrahydrofuran (0.5 mL). The reaction was allowed to stir at room temperature for 16 hours, at which point it was quenched with 3 drops of saturated sodium bicarbonate. The mixture was concentrated in vacuo, and the residue was loaded onto a 12 g silica column eluted with 100:0 to 95:5 dichloromethane:methanol over 20 minutes to give the titled compound (41 mg, 52% yield) as a white solid. 1H NMR (300 MHz, CDCl3) δ ppm 8.02 (d, J=1.0 Hz, 1H), 7.93 (d, J=1.4 Hz, 1H), 5.44 (t, J=4.0 Hz, 1H), 4.45-4.17 (br s, 2H), 4.07-3.98 (m, 2H), 3.67 (dd, J=13.8, 4.1 Hz, 1H), 3.00 (br s, 1H), 2.73-2.66 (m, 3H), 2.49 (dd, J=12.0, 7.6 Hz, 1H), 2.01-1.82 (m, 2H), 1.48 (s, 9H), 1.02-0.89 (m, 4H); MS (ESI+) m/z 333.0 (M-tBu+H)+.

reactant | tert-Butyl (8S,9aR)-8-hydroxy-5-oxohexahydro-1H-pyrrolo[1,2-a][1,4]diazepine-2(3H)-carboxylate | 0.203 mmol, 55 mg | O[C@H]1C[C@H]2N(C(CCN(C2)C(=O)OC(C)(C)C)=O)C1 | C13H22N2O4
reactant | Potassium tert-butoxide | 0.400 mmol, 1.0 M, 0.400 mL, 2.0 equivalents | CC(C)([O-])C.[K+]
reactant | 2-bromo-5-cyclopropylpyrazine | 0.407 mmol, 81 mg, 2.0 equivalents | BrC1=NC=C(N=C1)C1CC1 | C7H7BrN2
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 1.2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
product | tert-butyl (8S,9aR)-8-[(5-cyclopropylpyrazin-2-yl)oxy]-5-oxohexahydro-1H-pyrrolo[1,2-a][1,4]diazepine-2(3H)-carboxylate | 41 mg, 52% yield | C1(CC1)C=1N=CC(=NC1)O[C@H]1C[C@H]2N(C(CCN(C2)C(=O)OC(C)(C)C)=O)C1 | C20H28N4O4
